US07230099B2
Step B: Preparation of [6-(5-Amino-[1,3,4]oxadiazol-2-yl)-8-chloroimidazo[1,2-a]pyridin-7-yl]-(4-bromo-2-fluoro-phenyl)-amine.
7-(4-Bromo-2-fluoro-phenylamino)-8-chloro-imidazo[1,2-a]pyridine-6-carboxylic acid hydrazide (100 mg, 0.25 mmol) was suspended in dioxane (2 mL). Cyanogen bromide (27 mg, 0.253 mmol) was added, followed by a solution of sodium bicarbonate (21 mg, 0.25 mmol) in H2O (1.2 mL). The reaction mixture was stirred at room temperature for 16 hours. The reaction mixture was diluted with ethyl acetate and washed with water and saturated aqueous NaCl, dried over Na2SO4 and concentrated to yield the desired product (97 mg, 91%) as a white solid. MS ESI (+) m/z 423, 425 (M+, Cl, Br pattern) detected. 1H NMR (400 MHz, CH3OD) δ 8.98 (s, 1H), 7.95 (s, 1H), 7.61 (s, 1H), 7.33 (d, 1H), 7.17 (d, 1H), 6.78 (t, 1H). 19F (376 MHz, CD3OD) −128.6 (t).

reactant | 7-(4-Bromo-2-fluoro-phenylamino)-8-chloro-imidazo[1,2-a]pyridine-6-carboxylic acid hydrazide | 0.25 mmol, 100 mg | BrC1=CC(=C(C=C1)NC1=C(C=2N(C=C1C(=O)NN)C=CN2)Cl)F | C14H10BrClFN5O
reactant | Cyanogen bromide | 0.253 mmol, 27 mg | N#CBr | CBrN
reactant | sodium bicarbonate | 0.25 mmol, 21 mg | C([O-])(O)=O.[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1.2 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [6-(5-Amino-[1,3,4]oxadiazol-2-yl)-8-chloroimidazo[1,2-a]pyridin-7-yl]-(4-bromo-2-fluoro-phenyl)-amine | 97 mg, 91% | NC1=NN=C(O1)C=1C(=C(C=2N(C1)C=CN2)Cl)NC2=C(C=C(C=C2)Br)F | C15H9BrClFN6O
